US07598397B2
Synthesis of (E)-3-(5-Fluoro-1H-indol-7-yl)-acrylic acid methyl ester, I-30.
To a mixture of 7-Bromo-5-fluoro-1H-indole [which was prepared according to the known method (Dobbs, A., J. Org. Chem., 66, 638-641 (2001)], (400 mg, 1.87 mmol) and methyl acrylate (241 mg, 2.8 mmol) in triethylamine (1.5 ml), palladium(II) acetate (43 mg, 0.19 mmol) and tri-o-tolylphosphine (170 mg, 0.56 mmol) was added under argon at rt The reaction mixture was stirred at 100° C. for 4 hrs in a sealed pressure tube and then cooled to rt The reaction mixture was diluted with CH2Cl2 (50 ml), washed with water (3×30 ml), brine, and dried over sodium sulfate. After removal of solvent, the residue was purified by column chromatography on silica gel with EtOAc/hexane as an eluent to give 300 mg of compound I-30 as a yellow solid. 1H-NMR (500 MHz, CDCl3).

reactant | 7-Bromo-5-fluoro-1H-indole | BrC=1C=C(C=C2C=CNC12)F | C8H5BrFN
reactant | methyl acrylate | 2.8 mmol, 241 mg | C(C=C)(=O)OC | C4H6O2
reactant | tri-o-tolylphosphine | 0.56 mmol, 170 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium(II) acetate | 0.19 mmol, 43 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-3-(5-Fluoro-1H-indol-7-yl)-acrylic acid methyl ester | 300 mg | COC(\C=C\C=1C=C(C=C2C=CNC12)F)=O | C12H10FNO2
